US07939531B2
A solution of 1-[2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.066 g, 0.137 mmol) in 2 mL of dichloromethane and 1 mL of trifluoroacetic acid was stirred for 5 h then concentrated. The resulting residue was dissolved in 1 mL of ethanol and treated with sodium acetate trihydrate (0.186 g, 1.37 mmol). The mixture was stirred for 17 h, then concentrated. Column chromatography (1->8% MeOH/CH2Cl2) afforded 0.015 g (31%) of 1-{2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one as a yellow solid.

reactant | 1-[2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.137 mmol, 0.066 g | N1(CCC1)C(=O)C1=CN(C=C1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C25H35N5O3Si
reactant | sodium acetate trihydrate | 1.37 mmol, 0.186 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | 0.015 g, 31% | N1(CCC1)C(=O)C1=CN(C=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C19H21N5O2
